US08378104B2
Step A: 3-bromothieno[2,3-c]pyridin-7-amine
To a solution of 3-bromo-7-chlorothieno[2,3-c]pyridine (200 mg, 0.805 mmol) in 1,4-dioxane (2.6 mL) was added 28% ammonium hydroxide (2.2 mL, 22 mmol). The mixture was heated in a microwave at 140° C. for 6 h and then concentrated. The residue was suspended in water (15 mL) and extracted with 5% methanol:dichloromethane (5×10 mL). The combined organic fractions were dried over sodium sulfate, filtered, and concentrated. Purification by ISCO chromatography (0 to 5% methanol:dichloromethane) afforded 27 mg (15%) of the title compound as a light yellow solid. 1H NMR (400 MHz, CDCl3): δ 8.10 (d, J=5.8 Hz, 1 H), 7.58 (s, 1 H), 7.18 (d, J=5.6 Hz, 1 H), 4.87 (br. s., 2 H); MS (ESI): 229.04, 231.00 [M+H]+; HPLC tR=2.19 min (ZQ3, polar—4 min).

reactant | 3-bromo-7-chlorothieno[2,3-c]pyridine | 0.805 mmol, 200 mg | BrC1=CSC2=C(N=CC=C21)Cl | C7H3BrClNS
reactant | ammonium hydroxide | 22 mmol, 2.2 mL | [OH-].[NH4+]
solvent | 1,4-dioxane | 2.6 mL | O1CCOCC1 | C4H8O2
product | 3-bromothieno[2,3-c]pyridin-7-amine | 27 mg, 15% | BrC1=CSC2=C(N=CC=C21)N | C7H5BrN2S
